* C:\Users\USER\Documents\GitHub\Smoke_Detector_Perceptrons\Assembly.asc
* Generated by LTspice 26.0.1 for Windows.
C1 0 N009 15µ V=10 Irms=400m Rser=0.7 Lser=0 mfg="Vishay" pn="TR3C156M010" type="Tantalum"
RB1 N010 N009 1k
RA1 SYS_5V N010 1k
C2 0 N018 0.1µ V=10 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GRM022R61A103KE19" type="X5R"
C3 SYS_5V 0 0.1µ V=10 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GRM022R61A103KE19" type="X5R"
R1 pwr_pulse N014 100k
C4 SYS_5V N014 1µ V=10 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GRM033R61A105ME15" type="X5R"
R2 N017 0 1.5k
Q1 N017 N014 SYS_5V 0 BC856B
Q2 N013 N016 N020 0 BC846B
R3 N017 N016 1k
R4 SYS_5V N013 1k
D1 pwr_pulse N014 1N5819
X§U2 0 N012 N015 SYS_5V N019 N011 N011 SYS_5V NE555 ;§pnba GND)TRIG)OUT)RST)CV)THRS)DIS)Vcc
C5 N019 0 0.1µ V=10 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GRM022R61A103KE19" type="X5R"
R5 SYS_5V N011 10k tol=10
C6 N011 0 0.01µ V=10 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GRM033R71A103KA01" type="X7R"
C7 N013 N012 0.01µ V=10 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GRM033Z71A104KE14" type="X7R"
R6 SYS_5V N012 100k tol=10
D2 0 N021 UMZ5_1N
R7 N012 N021 470
D3 0 NC_01 1N5819
R8 N020 0 220
X§U3 N015 N036 SYS_5V 0 N037 TLV9062 ;§pnba In+)In-)V+)V-)OUT
X§M1 N032 N038 N043 AO3400 ;§pnba D)G)S
R9 N038 N037 10 tol=10
R10 N043 0 68 tol=10
R11 N043 N036 1.2k tol=10
C8 N037 N036 10p V=10 Irms=0 Rser=0.668 Lser=560p mfg="Würth Elektronik" pn="885012006002 WCAP-CSGP 0603" type="NP0"
D4 SYS_5V N032 TSAL6200
X§U8 BAT_5V BAT_5V 0 NC_02 N008 MP_03 MP_04 N008 LT1763-5 ;§pnba OUT)Sense)GND)BYP)_SHDN)))IN
V1 N008 0 6
V4 N007 0 PWL(1 5 2 5)
R25 AC_RAW_5V N007 0.1
C11 SYS_5V 0 220µ
X§U9 AC_SENSE V_REF N008 0 AC_PRESENT TLV7031 ;§pnba In+)In-)V+)V-)OUT
X§U10 V_REF 0 V_REF TLV431 ;§pnba K)A)R
R26 N008 V_REF 22k
R27 AC_RAW_5V AC_SENSE 29k
R28 AC_SENSE 0 10k
R29 N008 BAT_SENSE 330k
R30 BAT_SENSE 0 100k
X§U11 V_REF BAT_SENSE N008 0 LOW_BAT TLV7031 ;§pnba In+)In-)V+)V-)OUT
R31 P001 LOW_BAT 1k
D6 P001 0 D
C12 BAT_5V 0 10µ
X§M5 BAT_5V BAT_SW_GATE COMMON_SOURCE Si2301CDS ;§pnba D)G)S
X§M6 SYS_5V BAT_SW_GATE COMMON_SOURCE Si2301CDS ;§pnba D)G)S
R32 COMMON_SOURCE BAT_SW_GATE 100k
R33 BAT_SW_GATE AC_PRESENT 4.7k
X§M7 AC_RAW_5V N002 SYS_5V Si2301CDS ;§pnba D)G)S
R34 N002 SYS_5V 4.7k
Q4 N002 N006 0 0 NPN
R35 N006 AC_PRESENT 220k
X§U4 N005 N003 N001 0 N004 LTC6078 ;§pnba IN+)IN-)VCC)VEE)OUT
R13 N001 N003 10k tol=10
R14 N003 0 10k tol=10
C10 N005 0 0.1µ V=10 Irms=1.02 Rser=0.0850352 Lser=0
R15 N001 N005 8.2k tol=10
X§U13 cten comp N033 N035 0 0 0 0 qa qb NC_05 NC_06 NC_07 NC_08 SYS_5V 0 74HC191 ;§pnba CTEN)D/U)LOAD)CLK)A)B)C)D)QA)QB)QC)QD)RCO)MAXMIN)VCC)GND
V5 N033 0 PULSE(0 5 1m 1u 1u 100m 200m)
X§U14 freqsel N022 SYS_5V 0 74HC04 ;§pnba A)Y)VCC)GND
X§U16 comp N024 SYS_5V 0 74HC04 ;§pnba A)Y)VCC)GND
X§U17 N022 comp N026 SYS_5V 0 74HC08 ;§pnba A)B)Y)VCC)GND
X§U18 alarm N024 N023 SYS_5V 0 74HC08 ;§pnba A)B)Y)VCC)GND
X§U19 N023 N026 cten SYS_5V 0 74HC32 ;§pnba A)B)Y)VCC)GND
X§U20 qa qb alarm SYS_5V 0 74HC08 ;§pnba A)B)Y)VCC)GND
X§U21 qa qb freqsel NC_09 0 74HC32 ;§pnba A)B)Y)VCC)GND
V2 N027 0 PULSE(0 5 6.12m 10u 10u 10.62m 31.45m)
R12 N027 N039 490K
R16 N039 0 10K
R17 N029 N025 1Meg
C9 N039 0 0.1µ V=10 Irms=0 Rser=0.0268 Lser=311p mfg="Würth Elektronik" pn="885012105010 WCAP-CSGP 0402" type="X5R"
C13 N030 0 0.001µ V=10 Irms=40.9m Rser=2.89088 Lser=0 mfg="KEMET" pn="C1206C102K8RAC" type="X7R"
C14 N029 N025 5p V=25 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GCM0335C1E5R0CA16" type="C0G"
D5 N031 N040 1N4148
R18 N034 N042 10K
R19 N027 N028 8K
R20 N028 0 2K
R21 N042 N041 1Meg
R22 N040 N030 10k
X§U5 N039 N025 N027 0 N029 LTC6244 ;§pnba IN+)IN-)VCC)VEE)OUT
X§U6 N029 N030 N027 0 N031 LTC6244 ;§pnba IN+)IN-)VCC)VEE)OUT
X§U7 N030 N034 N027 0 N034 LTC6244 ;§pnba IN+)IN-)VCC)VEE)OUT
X§U12 N042 N028 N027 0 N041 LTC6244 ;§pnba IN+)IN-)VCC)VEE)OUT
R23 N044 0 22k
C15 N027 N044 0.1µ V=10 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GRM022R61A103KE19" type="X5R"
X§U15 N030 N044 0 T2N7002AK_G0_00 ;§pnba 3)1)2
D7 0 N044 1N4148
X§U1 0 N009 pwr_pulse SYS_5V N018 N009 N010 SYS_5V NE555 ;§pnba GND)TRIG)OUT)RST)CV)THRS)DIS)Vcc
X§U22 N015 N035 SYS_5V 0 74HC04 ;§pnba A)Y)VCC)GND
G1 0 N025 N015 0 -0.0001
X§U23 N041 comp SYS_5V 0 74HC04 ;§pnba A)Y)VCC)GND
.model D D
.lib C:\Users\USER\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\USER\AppData\Local\LTspice\lib\cmp\standard.bjt
.include AO3400.mod
.include tlv9062.lib
.include AO3400.mod
.model TSAL6200 D(Is=6e-14 N=1.8 Rs=0.8 Cjo=40p Tt=15n Bv=5 Ibv=10u mfg=Vishay type=LED)
.model SWMOD SW(Ron=0.05 Roff=1Meg Vt=2.5 Vh=0.1)
.include "si2301cds_ps Rev B.lib"
.tran 0 100m 0 50u
.include "tlv7031.lib"
.model D3V3 D(BV=3.3 IBV=5m RS=1.5)
.lib 74hc_lib.lib
.param vcc=5 speed=1 tripdt=1n
* Library below included based on ModelFile attribute of instance X§U15 (C:\Users\USER\AppData\Local\LTspice\lib\sym\Contrib\Toshiba\lvmos\T2N7002AK_G0_00.asy)
.lib Contrib/Toshiba/LVMOS/T2N7002AK_G0_00_enc.lib
* Library below included based on ModelFile attribute of instance X§U8 (C:\Users\USER\AppData\Local\LTspice\lib\sym\PowerProducts\LT1763-5.asy)
.lib LT1763.lib
* Library below included based on ModelFile attribute of instance X§U4 (C:\Users\USER\AppData\Local\LTspice\lib\sym\OpAmps\LTC6078.asy), X§U5, X§U6, X§U7, X§U12 (C:\Users\USER\AppData\Local\LTspice\lib\sym\OpAmps\LTC6244.asy)
.lib LTC5.lib
* Library below included based on ModelFile attribute of instance X§U2, X§U1 (C:\Users\USER\AppData\Local\LTspice\lib\sym\Misc\NE555.asy)
.lib NE555.sub
* Library below included based on ModelFile attribute of instance X§U10 (C:\Users\USER\AppData\Local\LTspice\lib\sym\References\TLV431.asy)
.lib TLV431.sub
.backanno
.end
