* MIC29302WU simplified 5V LDO model
* Pins: EN IN GND OUT ADJ
* System-level model for this project

.SUBCKT MIC29302WU EN IN GND OUT ADJ

.param VREG=5
.param VDROP=0.40
.param RON=0.05

* Enable
B_EN EN_OK 0 V={if(V(EN)>1,1,0)}

* Regulated output with dropout
B_LDO NDRV 0 V={
+ if(V(EN)>1,
+ min(V(IN)-VDROP,VREG),
+ 0)
+ }

R_SER NDRV OUT {RON}

* ADJ reference representation
R_ADJ OUT ADJ 1G
B_REF ADJ 0 V={if(V(EN)>1,1.24,0)}

.ENDS MIC29302WU