* D:\Study\ENTC\0 Tronic Projects\Sem 03\Analog\Powersupply\PowerMux_CC.asc
* Generated by LTspice 26.0.2 for Windows.
X§U1 BAT_5V BAT_5V 0 NC_01 N009 MP_02 MP_03 N009 LT1763-5 ;§pnba OUT)Sense)GND)BYP)_SHDN)))IN
R1 SYS_5V 0 50
V1 N009 0 6
V2 N008 0 5
R3 N004 N008 0.1
C1 SYS_5V 0 470µ V=10 Irms=418m Rser=0.29 Lser=22.8n mfg="Würth Elektronik" pn="860010273011 WCAP-ATG8 6,3x11" type="Al electrolytic"
R8 AC_RAW_5V AC_SENSE 29k
R10 AC_SENSE 0 10k
R11 N009 BAT_SENSE 330k
R12 BAT_SENSE 0 102k
R13 P001 LOW_BAT 330
D1 P001 0 D
C2 BAT_5V 0 47µ V=10 Irms=0 Rser=0.0027 Lser=800p mfg="Würth Elektronik" pn="885012108012 WCAP-CSGP 1206" type="X5R"
R2 COMMON_SOURCE BAT_SW_GATE 100k
R4 BAT_SW_GATE AC_PRESENT 1k
R5 N006 SYS_5V 4.7k
Q1 N006 N007 0 0 BC547B
R6 N007 AC_PRESENT 47k
S1 N004 AC_RAW_5V N005 0 SWMOD
V3 N005 0 PULSE(5 0.05 5m 100u 100u 10m 20m)
X§U2 AC_SENSE V_REF BAT_5V 0 AC_PRESENT TLV9062 ;§pnba In+)In-)V+)V-)OUT
X§U4 BAT_SENSE V_REF BAT_5V 0 U4_OUT TLV9062 ;§pnba In+)In-)V+)V-)OUT
R9 AC_PRESENT AC_SENSE 10Meg
R14 U4_OUT BAT_SENSE 10Meg
Q2 LOW_BAT N010 0 0 BC547B
R15 N010 U4_OUT 22k
R16 LOW_BAT N009 470
D2 0 VZ DZ3V3
R7 N009 VZ 2.7k
R17 VZ V_REF 100k
R18 V_REF 0 62k
V4 N003 0 25
R20 BAT_5V COMMON_SOURCE 10k
C3 COMMON_SOURCE BAT_SW_GATE 0.22µ V=10 Irms=0 Rser=0.0109 Lser=513p mfg="Würth Elektronik" pn="885012209002 WCAP-CSGP 1210" type="X7R"
R21 COMMON_AC_GATE AC_COMMON 100k
R23 N002 0 100k
Q3 COMMON_AC_GATE N001 0 0 BC547B
R22 N001 AC_PRESENT 47k
R24 AC_COMMON 0 100k
X§M4 AC_RAW_5V COMMON_AC_GATE AC_COMMON IRF4905 ;§pnba D)G)S
X§M5 N002 COMMON_AC_GATE AC_COMMON IRF4905 ;§pnba D)G)S
X§M1 N002 N006 SYS_5V IRF4905 ;§pnba D)G)S
X§M2 BAT_5V BAT_SW_GATE COMMON_SOURCE IRF4905 ;§pnba D)G)S
X§M3 SYS_5V BAT_SW_GATE COMMON_SOURCE IRF4905 ;§pnba D)G)S
.model D D
.lib C:\Users\shars\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\shars\AppData\Local\LTspice\lib\cmp\standard.bjt
.model SWMOD SW(Ron=0.05 Roff=1Meg Vt=2.5 Vh=0.1)
.include "si2301cds_ps Rev B.lib"
.include "tlv9062.lib"
.tran 12m startup
.options reltol=0.01
.model DZ3V3 D(Bv=3.3 Ibv=1m)
.include FDN340P.mod
.include IRF4905.spi
* Library below included based on ModelFile attribute of instance X§U1 (C:\Users\shars\AppData\Local\LTspice\lib\sym\PowerProducts\LT1763-5.asy)
.lib LT1763.lib
.backanno
.end
